US07592005B2
N-methyl-N-(methyl dithiopropanoyl)-L-alanine (26 mg) prepared by a different process in accordance with a reference was dissolved in 3 ml of CH2Cl2, 30 mg of dicyclohexylcarbodiimide (2 equivalent amounts) and 20 μl of 1M zinc chloride (1 equivalent amount) were added thereto, and the mixture was stirred at room temperature for 30 minutes. Since the reaction did not proceed under this condition, the amount of 1M zinc chloride added was changed to 100 μl (5 equivalent amounts), and the mixture was stirred at room temperature for 30 minutes. A solution of 11.8 mg of maytansinol in 1 ml of CH2Cl2 was added thereto for esterification. The reaction solution was concentrated to dryness 3 hours later, the main product was purified by preparative TLC (CH2Cl2:MeOH=10:1) and then by preparative HPLC (ODS column, eluent: 60% CH3CN). As a result, 2.5 mg of maytansine derivative (May-SS-Me) was obtained. FIG. 6 shows the resulting May-SS-Me by 500 MHz 1H NMR. In the test for assaying the cellular cytotoxicity of the human myeloma cell strain IM9 as described in Example 19, IC50 of the obtained May-SS-Me was 10 nM, which was 1/1000 or less than that of ansamitocin P-3.

reactant | N-methyl-N-(methyl dithiopropanoyl)-L-alanine | 26 mg | CN([C@@H](C)C(=O)O)C(CCSSC)=O | C8H15NO3S2
reactant | dicyclohexylcarbodiimide | 30 mg, 2 equivalent | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | maytansinol | 11.8 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 1M, 20 μl, 1 equivalent | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 1M | [Cl-].[Zn+2].[Cl-]
product | maytansine | 2.5 mg | C[C@@H]1[C@@H]2C[C@]([C@@H](/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)C[C@@H]([C@]4([C@H]1O4)C)OC(=O)[C@H](C)N(C)C(=O)C)C)\C)OC)(NC(=O)O2)O | C34H46ClN3O10
